US05622954
This compound is prepared in a manner analogous to that of Step B of Example 4, using 7.0 grams (0.055 mole) of oxalyl chloride, 9.5 grams (0.120 mole) of dimethyl sulfoxide, 10.5 grams (0.050 mole) of [1-(4-chlorophenyl)-1-cyclopentyl]methanol, and 25.5 grams (0.250 mole) of triethylamine in 175 mL of methylene chloride, yielding 1-(4-chlorophenyl)-1-cyclopentanecarboxaldehyde.

reactant | oxalyl chloride | 0.055 mole, 7.0 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.120 mole, 9.5 grams | CS(=O)C | C2H6OS
reactant | [1-(4-chlorophenyl)-1-cyclopentyl]methanol | 0.050 mole, 10.5 grams | ClC1=CC=C(C=C1)C1(CCCC1)CO | C12H15ClO
reactant | triethylamine | 0.250 mole, 25.5 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 175 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-1-cyclopentanecarboxaldehyde | ClC1=CC=C(C=C1)C1(CCCC1)C=O | C12H13ClO
